US07361672B2
64.1 A solution of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to C. F. Bigge et al., patent application WO 2003045912) in 150 ml THF was treated with 5.8 ml triethylamine and 3.2 ml bromoacetyl bromide. The reaction mixture was stirred overnight at r.t., then again treated with 2.1 ml bromoacetyl bromide. After stirring overnight at r.t., the solid was filtered off and washed with THF. Then it was dissolved 1 l EtOAc and washed 2× with 100 ml H2O. The organic layer was dried over MgSO4, filtered and concentrated to give 3.0 g 2-bromo-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide as off-white solid. MS 325.1 ([M+H]+)

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | triethylamine | 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 3.2 ml | BrCC(=O)Br | C2H2Br2O
reactant | bromoacetyl bromide | 2.1 ml | BrCC(=O)Br | C2H2Br2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-bromo-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide | 3.0 g | BrC(C(=O)N)C1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C13H10BrFN2O2
